US04577015
122 g of sodium 2-chloro-5-nitrobenzenesulphinate are kneaded together with 150 g of ethanolamine, and the mixture is gradually heated to 100° C. After 30 minutes at 100° C. 500 ml of water are added, the reaction solution is neutralised with hydrochloric acid, and the sodium 2-(2-hydroxyethyl)amino-5-nitrobenzenesulphinate is isolated as above, by salting out.

reactant | sodium 2-chloro-5-nitrobenzenesulphinate | 122 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)[O-].[Na+]
reactant | ethanolamine | 150 g | C(O)CN | C2H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 500 ml | O | H2O
product | sodium 2-(2-hydroxyethyl)amino-5-nitrobenzenesulphinate | OCCNC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)[O-].[Na+] | InChI=1S/C8H10N2O5S.Na/c11-4-3-9-7-2-1-6(10(12)13)5-8(7)16(14)15;/h1-2,5,9,11H,3-4H2,(H,14,15);/q;+1/p-1
